Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PLASTIC
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
previously infected wrist fusion hardware
 
Major Surgical or Invasive Procedure:
___ Right wrist fusion, MFC free tissue transfer

 
History of Present Illness:
History of Present Illness:
___ s/p right wrist surgeries x 3 at outside hospitals, admitted 
for Right wrist fusion, MFC free tissue transfer
He initially  injured his right wrist in ___ breaking up a dog 
fight (works at a ___ daycare).  His first surgery was on 
___ by a  surgeon in ___, who "placed a pin" in his 
wrist to address a  "ruptured tendon or ligament." (on further 
detailed questioning, it sounds like this surgery may have been 
done to address a  scapholunate injury).  Patient continued to 
have pain after this surgery, so he sought a second opinion from 
Dr. ___ at ___, and underwent "parital 
fusion" on ___.  He was still having significant pain and 
limited function after  this surgery, so Dr. ___ 
him to a total wrist fusion with a dorsal plate on ___.  
Since this most recent surgery, patient states he has had 
continued pain and redness at the surgical site on his dorsal 
wrist.  He has also had frequent drainage from the wound, and he 
recently had a screw actually extrude through the skin.  He 
endorses vague numbness in no specific distribution in his hand 
and states it "hasn't felt right" since his first surgery in 
___. the hardware was removed in previous admission and he is 
being admitted for Right wrist fusion, MFC free tissue transfer
 
Past Medical History:
Depression
Right wrist surgery x 3 

 
Social History:
___
Family History:
___
 
Physical Exam:
AT DISCHARGE
RUE:
- short arm cast in place, c/d/I
- mild diffuse swelling of the hand
- Fires EPL/FPL/DIO
- SILT axillary/radial/median/ulnar nerve distributions
- WWP

RLE incision site clean, no erythema, NV intact, Drain in no 
erythema
 
 
Pertinent Results:
n/p
 
Brief Hospital Course:
The patient was admitted to the plastic surgery service on ___ 
and had a Right wrist fusion, MFC free tissue transfer.  The 
patient tolerated the procedure well.  . Neuro: 
Post-operatively, he had block and and adequate pain control. 
When tolerating oral intake, the patient was transitioned to 
oral pain medications.  . CV: The patient was stable from a 
cardiovascular standpoint; vital signs were routinely monitored. 
. Pulmonary: The patient was stable from a pulmonary standpoint; 
vital signs were routinely monitored. . GI/GU: Post-operatively, 
the patient was given IV fluids until tolerating oral intake. 
His/Her diet was advanced when appropriate, which was tolerated 
well. he was also started on a bowel regimen to encourage bowel 
movement. Foley was removed on POD#2. Intake and output were 
closely monitored.  . ID: Post-operatively, the patient was 
started on IV cefazolin and stopped at the time of discharge 
___ with ___ & OT services. The patient's temperature was 
closely watched for signs of infection.  . Prophylaxis: The 
patient received subcutaneous heparin during this stay, and was 
encouraged to get up and ambulate as early as possible.  . At 
the time of discharge, the patient was doing well, afebrile with 
stable vital signs, tolerating a regular diet, ambulating, 
voiding without assistance, and pain was well controlled.
 
Medications on Admission:
Citalopram, omeprazole, oxybutynin, oxycodone, trazodone, 
ranitidine
 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H 
RX *acetaminophen 500 mg 2 tablet(s) by mouth every eight (8) 
hours Disp #*50 Tablet Refills:*0 
2.  Aspirin 121.5 mg PO DAILY 
RX *aspirin [Aspirin Low-Strength] 81 mg 1.5 tablet(s) by mouth 
once a day Disp #*60 Tablet Refills:*0 
3.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium [Colace] 100 mg 1 capsule(s) by mouth twice 
a day Disp #*40 Capsule Refills:*0 
4.  HYDROmorphone (Dilaudid) ___ mg PO Q3H:PRN Pain - Moderate 
RX *hydromorphone [Dilaudid] 2 mg ___ tablet(s) by mouth every 
four (4) hours Disp #*50 Tablet Refills:*0 
5.  Citalopram 40 mg PO DAILY  
6.  Oxybutynin 5 mg PO TID  
7.  Pantoprazole 40 mg PO Q24H  
8.  Ranitidine 150 mg PO BID  
9.  TraZODone 100 mg PO QHS  
10.CRUTCHES
Dx: Right wrist osteomyelitis s/p right MFC flap from R leg
Px: Good
Length of need: 13 months
___: ___

 
Discharge Disposition:
___ With Service
 
Facility:
___
 
Discharge Diagnosis:
previously infected wrist fusion hardware

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
-You should keep your RLE lower extremity elevated when you are 
not dangling or walking (you may use pillows at ___ to help 
with swelling and drainage.
-You should continue to walk around with Knee immobilizer on for 
the next 3 weeks. 
-Report any change in color of your flap area including 
increased redness and/or any dusky or darkened appearance to the 
office. 
-use gauze, as needed, to help absorb any drainage from flap.
-Your right lower extremity should remain wrapped.
-Your Right forearm dressing should remain in place. You should 
always wear your hand/forearm splint but you should move your 
fingers as necessary to discourage any stiffness from 
developing.
-You CAN NOT TAKE SHOWER until directed by your doctor. Please 
Just do sponge baths. KEEP THE DRESSINGS ON TILL F/U visit.
-You may continue to walk around with knee immobilizer according 
to the protocol which you started in the hospital. Increase your 
times by 5 minutes everyday (three times/day) until you reach 30 
minutes three times/day. Continue with the 30 minutes three 
times/day until further instructed by your doctor at your first 
follow up appointment.

Diet/Activity: 
1. You may resume your regular diet. 
2. Avoid heavy lifting and do not engage in strenuous activity 
until instructed by your doctor. 
. 
Medications: 
1. Resume your regular medications unless instructed otherwise 
and take any new meds as ordered. 
2. You may take your prescribed pain medication for moderate to 
severe pain. You may switch to Tylenol or Extra Strength Tylenol 
for mild pain as directed on the packaging. 
3. Take prescription pain medications for pain not relieved by 
tylenol. 
4. Take Colace, 100 mg by mouth 2 times per day, while taking 
the prescription pain medication. You may use a different 
over-the-counter stool softener if you wish.
5. Do not drive or operate heavy machinery while taking any 
narcotic pain medication. You may have constipation when taking 
narcotic pain medications (oxycodone, percocet, vicodin, 
hydrocodone, dilaudid, etc.); you should continue drinking 
fluids, you may take stool softeners, and should eat foods that 
are high in fiber.
.
Call the office IMMEDIATELY if you have any of the following: 
1. Signs of infection: fever with chills, increased redness, 
swelling, warmth or tenderness at the surgical site, or unusual 
drainage from the incision(s).
2. A large amount of bleeding from the incision(s).
3. Fever greater than 101.5 oF
4. Severe pain NOT relieved by your medication.
.
Return to the ER if: 
* If you are vomiting and cannot keep in fluids or your 
medications.
* If you have shaking chills, fever greater than 101.5 (F) 
degrees or 38 (C) degrees, increased redness, swelling or 
discharge from incision, chest pain, shortness of breath, or 
anything else that is troubling you.
* Any serious change in your symptoms, or any new symptoms that 
concern you.

DRAIN DISCHARGE INSTRUCTIONS  
You are being discharged with drains in place. Drain care is a 
clean procedure. Wash your hands thoroughly with soap and warm 
water before performing drain care. Perform drainage care twice 
a day. Try to empty the drain at the same time each day. Pull 
the stopper out of the drainage bottle and empty the drainage 
fluid into the measuring cup. Record the amount of drainage 
fluid on the record sheet. Reestablish drain suction. 
 
Followup Instructions:
___